US07863283B2
(RS)-S-[3-({[4-(Isopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide
(RS)-N-(Ethoxycarbonyl)-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}-methyl)phenyl]-S-methylsulphoximide (105 mg, 0.22 mmol) is introduced into 2.5 ml of ethanol. 1.0 ml of a 1-molar ethanolic sodium ethoxide solution is added and the mixture is heated to 80° C., until starting material is no longer present according to TLC checking (eluent dichloromethane/methanol 10:1). The reaction solution is concentrated in vacuo, and the residue is taken up in ethyl acetate and washed with saturated sodium carbonate solution. The organic phase is dried over sodium sulphate and concentrated. The crude product is purified by preparative HPLC and the desired product is obtained in 36% yield (32 mg).

reactant | (RS)-N-(Ethoxycarbonyl)-S-[3-({[4-(isopropylamino)-6-methoxyquinazolin-7-yl]oxy}-methyl)phenyl]-S-methylsulphoximide | 0.22 mmol, 105 mg | C(C)OC(=O)N=S(=O)(C)C1=CC(=CC=C1)COC1=C(C=C2C(=NC=NC2=C1)NC(C)C)OC | C23H28N4O5S
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
reactant | sodium ethoxide | 1-molar | [O-]CC.[Na+]
solvent | dichloromethane methanol | ClCCl.CO
product | (RS)-S-[3-({[4-(Isopropylamino)-6-methoxyquinazolin-7-yl]oxy}methyl)phenyl]-S-methylsulphoximide | 36% yield | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1C=C(C=CC1)S(=O)(=N)C | C20H24N4O3S
